* opamp_core unity-gain-buffer slew-rate testbench (issue #17)
*
* Measures `design/netlist/opamp_core.spice`'s large-signal slew rate into
* CL = 2 pF [DR-001], at one (corner, temperature) point, via the classic
* 20%-80% unity-gain-buffer step response. bin/pvt_sweep.py renders this
* template once per point -- see opamp_ac.spice.tmpl's header for the
* included-flat-netlist and ibias-current-source conventions shared by all
* three testbenches in this experiment; not repeated here.
*
* Feedback: `inn` is wired directly to `out` through a negligible-resistance
* resistor (Rshort, 1 mOhm -- ngspice will not accept a literal zero-ohm
* two-terminal element in some analysis modes, so a small non-zero value
* stands in for a wire) -- a real physical unity-gain-buffer connection,
* not the AC bench's DC-servo artifice, since this is a genuine large-signal
* closed-loop transient, not an open-loop small-signal one.
*
* Stimulus: `inp` steps between 0.54 and 1.26 (a fixed fraction of
* VDD around mid-supply, chosen in bin/pvt_sweep.py so the same relative
* stimulus scales with each corner's own supply -- see ../README.md
* "Stimulus choices") with a fast 1n edge, well inside the linear
* input range this experiment's own opamp_dc_swing.spice.tmpl bench
* confirms independently (see that testbench's results for the actual
* simulated compliance range, which this step is chosen to sit inside).
*
* Measurement: `.meas tran sr_rise`/`sr_fall` time the 20%-80% (rise) and
* 80%-20% (fall) transit of `v(out)` between 0.54 and 1.26 -- the
* textbook slew-rate measurement convention -- so
* SR = 0.6*(V_HIGH-V_LOW) / measured_time in each direction.
* bin/pvt_sweep.py derives the 0.684/1.116 trigger levels from 0.54/
* 1.26 before rendering this template.

.option scale=1u
.param mc_mm_switch=0
.param mc_pr_switch=0
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/corners/sf.spice"
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice"
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice"
.temp 27.0

.include "/Users/rwalters/GitHub/sky130-opamp/.loom/worktrees/issue-17/design/netlist/opamp_core.spice"

Vdd vdd 0 dc 1.8
Vss vss 0 dc 0
Iref vdd ibias dc 5u
Rshort inn out 1m
Vinp inp 0 pulse(0.54 1.26 200n 1n 1n 1u 2u)
Cload out 0 2p

.control
tran 2n 2.2u
meas tran sr_rise_s trig v(out) val=0.684 rise=1 targ v(out) val=1.116 rise=1
meas tran sr_fall_s trig v(out) val=1.116 fall=1 targ v(out) val=0.684 fall=1
.endc
.end
